2134-06-01 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2134-6-1**] 01:30 AM
 INVASIVE VENTILATION - START [**2134-6-1**] 01:45 AM
 SPUTUM CULTURE - At [**2134-6-1**] 01:50 AM
 EKG - At [**2134-6-1**] 03:45 AM
 FEVER - 102.6
F - [**2134-6-1**] 01:21 AM
   - Pupils slightly irregular. Went for additional CTH.
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 75 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-6-1**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-6-1**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-6-1**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.6
   Tcurrent: 36.7
C (98.1
   HR: 81 (81 - 109) bpm
   BP: 138/93(104) {116/74(84) - 139/93(104)} mmHg
   RR: 20 (19 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
             4,717 mL
   PO:
             TF:
   IVF:
   2,317 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,915 mL
   Urine:
   840 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,802 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: ///22/
   Ve: 11.1 L/min
   Physical Examination
   General: Sedated, intubated
   HEENT: NC/AT; pupils small, but equally round and reactive to light,
   sclera anicteric; OG with bloody secretions
   Neck: Supple, no LAD
   Lungs: CTAB
   CV: S1, S2 nl, no m/r/g appreciated
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Limited due to sedation, but notable for clonus b/l and
   equivocal babinksi. Patient does not follow commands
   Skin: No rash, no jaundice
   Labs / Radiology
   148 K/uL
   10.6 g/dL
   117 mg/dL
   3.4 mg/dL
   22 mEq/L
   4.0 mEq/L
   35 mg/dL
   106 mEq/L
   140 mEq/L
   30.4 %
   13.4 K/uL
        [image002.jpg]
                             [**2134-6-1**]  04:56 AM
   WBC
   13.4
   Hct
   30.4
   Plt
   148
   Cr
   3.4
   Glucose
   117
   Other labs: PT / PTT / INR:13.9/31.6/1.2, CK / CKMB / Troponin-T:284//,
   ALT / AST:15/36, Alk Phos / T Bili:56/0.3, Lactic Acid:0.8 mmol/L,
   Albumin:3.8 g/dL, LDH:274 IU/L, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 56 yo male with recent head trauma s/p MVA who
   presents with seizures and question of Benadryl/TCA ingestion, now
   intubated for airway protection.
   # Seizure: Differential includes toxic-metabolic versus traumatic. LP
   underwhelming for infectious process and antimicrobials and antiviral
   held for now.  CTH negative of acute intracranial process, although
   patient this morning had ?irregular papillary response and so was sent
   for repeat CTH.  No other source of infection identified thus far,
   although patient does have HD line in place.  Also question of TCA
   overdose, although unclear if patient was taking TCAs and tox screen
   negative for TCAs. Patient evaluated by toxicology and recommended
   bicarb gtt with serial monitoring of intervals.
   - Hold on antimicrobials for now.
   - Repeat ECG this AM for QRS interval monitoring.
   - EEG today
   - Follow-up CTH  results
   - Seizure precauations
   - If seizes again, load with dilantin
   - Follow-up culture data
   - Follow-up neuo and toxicology recs
   - Obtain OSH/pharmacy info to see if pt was on TCA.
   #  Respiratory failure: Patient intubated at OSH for airway protection
   given recurrent seizures.  Currently on propafol sedation.
   - Wean sedation, RSBI and SBT today if appropriate.
   - If SBT successful, consider extubation.
   # Leukocytosis/fever: Patient febrile to 102 with leukocytosis and left
   shift concerning for infectious process. Lactate not normalized.  As
   above, LP negative with no other source identified. Vanco, CNS dose
   ceftriaxone, acyclovir all held.
   - Hold antimicrobials pending culture data.
   - Blood cultures through HD line.
   - Trend fever curve, WBC.
   # Metabolic Acidosis: Likely a combination of relative uremia and
   lactic acidosis. Notably, blood sugar was also elevated, but ketones
   were negative in the UA.  AG now narrowed at 12 with normal albumin
   with lactate normalized.
   - Trend chemistries/AG
   - IVF
   - Treat ESRD as below
   .
   # ESRD on HD: Unclear of renal baseline and patient has not been on HD
   in over a year. Currently, without volume overload or electrolyte
   abnormalities.  Patient with good UOP.
   - Trend chemistries, creatinine, and UOP.
   - Consult renal
   # Hepatitis C: Unclear status of liver disease.  Transaminases normal
   with preserved synthetic function.
   - Continue to trend LFTs
   # Elevated Troponin: EKG with non-specific changes and troponin
   elevated in the setting of renal failure.
   - Rule out ACS with serial cardiac biomarkers and repeat ECG
   - Monitor on telemetry
   FEN: NPO, replete as necessary. IVF.
   PPx: Heparin SQ, PPI, bowel regimen
   Access: PIV x3, HD line
   Code: Full
   Communication: Son
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2134-6-1**] 01:34 AM
   18 Gauge - [**2134-6-1**] 01:34 AM
   20 Gauge - [**2134-6-1**] 01:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-06-02 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2134-6-1**] 03:30 PM
 EKG - At [**2134-6-1**] 08:00 PM
 MAGNETIC RESONANCE IMAGING - At [**2134-6-1**] 09:30 PM
 EKG - At [**2134-6-1**] 11:30 PM
   - started on dilantin per neuro
   - head mri prelim without acute changes
   - started amlodipine, labetalol for htn
   - bicarb drip stopped, QRS stable
   - d/c'd antibiotics per neuro
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 75 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-6-2**] 02:04 AM
   Dilantin - [**2134-6-2**] 02:24 AM
   Heparin Sodium (Prophylaxis) - [**2134-6-2**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-6-2**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.2
C (100.7
   HR: 95 (81 - 109) bpm
   BP: 155/101(115) {111/67(75) - 187/122(131)} mmHg
   RR: 11 (11 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  6,460 mL
                                                                    338 mL
   PO:
             TF:
   IVF:
                                                                  4,060 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                  4,275 mL
                                                                    920 mL
   Urine:
                                                                  3,200 mL
                                                                    920 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  2,185 mL
                                                                   -582 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 501 (500 - 501) mL
   Vt (Spontaneous): 663 (663 - 663) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 75
   PIP: 16 cmH2O
   Plateau: 12 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 8.3 L/min
   Physical Examination
   General: Sedated, intubated
   HEENT: NC/AT; pupils small, but equally round and reactive to light,
   sclera anicteric; OG with bloody secretions
   Neck: Supple, no LAD
   Lungs: CTAB
   CV: S1, S2 nl, no m/r/g appreciated
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Limited due to sedation, but notable for clonus b/l and
   equivocal babinksi. Patient does not follow commands
   Skin: No rash, no jaundice
   Labs / Radiology
   142 K/uL
   11.8 g/dL
   141 mg/dL
   3.7 mg/dL
   22 mEq/L
   4.0 mEq/L
   32 mg/dL
   106 mEq/L
   142 mEq/L
   34.6 %
   12.3 K/uL
        [image002.jpg]
                             [**2134-6-1**]  04:56 AM
                             [**2134-6-2**]  03:20 AM
   WBC
   13.4
   12.3
   Hct
   30.4
   34.6
   Plt
   148
   142
   Cr
   3.4
   3.7
   TropT
   0.05
   Glucose
   117
   141
   Other labs: PT / PTT / INR:13.9/31.6/1.2, CK / CKMB /
   Troponin-T:284/6/0.05, ALT / AST:15/36, Alk Phos / T Bili:56/0.3,
   Lactic Acid:0.8 mmol/L, Albumin:3.8 g/dL, LDH:274 IU/L, Ca++:8.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 56 yo male with recent head trauma s/p MVA who
   presents with seizures and question of Benadryl/TCA ingestion, now
   intubated for airway protection.
   # Seizure: Differential includes toxic-metabolic, trauma p MVA. LP
   underwhelming for infectious process and antimicrobials and antiviral
   held for now.
   - CT head negative
   - EEG pnd
   - MRI pnd
   - loaded with dilantin, subtherapeutic level.
   - f/u Neuro
   #  Respiratory failure: Patient intubated at OSH for airway protection
   given recurrent seizures.  Currently on propafol sedation.
   - Wean sedation, RSBI and SBT today, consider extubation.
   # Leukocytosis/fever: Patient febrile to 102 with leukocytosis and left
   shift which is now improved. Also initially with AG and elevated
   lactate both of which now normalized.  LP negative, Cx NGTD. Possible
   etiology for WBCs is hemoconcentration
   - Vanco, CNS dose ceftriaxone, acyclovir all held.
   - Blood cultures through HD line.
   - Trend fever curve, WBC.
   # AGMA: Likely a combination of relative uremia and lactic acidosis.
   Notably, blood sugar was also elevated, but ketones were negative in
   the UA.  AG now narrowed at 12 with normal albumin with lactate
   normalized.
   # ESRD on HD: Unclear of renal baseline and patient has not been on HD
   in over a year. Currently, without volume overload or electrolyte
   abnormalities.  Patient with good UOP. Awaiting outpt records.
   - Trend chemistries, creatinine, and UOP.
   - Consult renal
   # Hepatitis C: Unclear status of liver disease.  Transaminases normal
   with preserved synthetic function.
   - Continue to trend LFTs
   # Elevated Troponin: EKG with non-specific changes and troponin
   elevated in the setting of renal failure.
   - Rule out ACS with serial cardiac biomarkers and repeat ECG
   - Monitor on telemetry
   FEN: NPO, replete as necessary. IVF.
   PPx: Heparin SQ, PPI, bowel regimen
   Access: PIV x3, HD line
   Code: Full
   Communication: Son
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2134-6-1**] 01:34 AM
   20 Gauge - [**2134-6-2**] 04:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-06-03 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2134-6-2**] 10:00 AM
 URINE CULTURE - At [**2134-6-2**] 10:30 PM
 BLOOD CULTURED - At [**2134-6-2**] 10:30 PM
 SPUTUM CULTURE - At [**2134-6-2**] 11:00 PM
   - C2 fluid collection
   - NSurg thought collection was ?hematoma and initally wanted MRI with
   contrast but are reevaluating re ARF
   - vanc ceftaz
   - spike overnight: pan cx
   - final MRI/EEG are pnd
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2134-6-2**] 12:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2134-6-2**] 01:23 PM
   Ceftazidime - [**2134-6-2**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 10 mg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2134-6-3**] 02:00 AM
   Pantoprazole (Protonix) - [**2134-6-3**] 04:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-6-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-6-3**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 36.7
C (98
   HR: 68 (64 - 108) bpm
   BP: 95/62(69) {83/49(57) - 176/123(134)} mmHg
   RR: 11 (10 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,263 mL
                                                                    246 mL
   PO:
             TF:
   IVF:
                                                                  1,213 mL
                                                                    246 mL
   Blood products:
   Total out:
                                                                  2,350 mL
                                                                    270 mL
   Urine:
                                                                  2,350 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,087 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 670 (427 - 817) mL
   PS : 10 cmH2O
   RR (Set): 0
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 65
   PIP: 15 cmH2O
   SpO2: 98%
   ABG: 7.40/38/74/22/0
   Ve: 6.8 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General: Sedated, intubated
   HEENT: NC/AT; pupils +2/symmetric RRL, sclera anicteric
   Neck: Supple, no LAD
   Lungs: CTAB
   CV: S1, S2 nl, no m/r/g appreciated
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: Limited due to sedation, but notable for clonus b/l and
   equivocal babinksi. Patient does not follow commands
   Skin: No rash, no jaundice
   Labs / Radiology
   118 K/uL
   11.8 g/dL
   105 mg/dL
   4.2 mg/dL
   22 mEq/L
   4.1 mEq/L
   32 mg/dL
   108 mEq/L
   139 mEq/L
   31.0 %
   9.7 K/uL
        [image002.jpg]
                             [**2134-6-1**]  04:56 AM
                             [**2134-6-2**]  03:20 AM
                             [**2134-6-2**]  08:57 AM
                             [**2134-6-3**]  04:54 AM
   WBC
   13.4
   12.3
   9.7
   Hct
   30.4
   34.6
   31.0
   Plt
   148
   142
   118
   Cr
   3.4
   3.7
   4.2
   TropT
   0.05
   TCO2
   24
   Glucose
   117
   141
   105
   Other labs: PT / PTT / INR:13.3/29.9/1.1, CK / CKMB /
   Troponin-T:284/6/0.05, ALT / AST:15/36, Alk Phos / T Bili:56/0.3,
   Lactic Acid:0.8 mmol/L, Albumin:3.8 g/dL, LDH:274 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 56 yo male with recent head trauma s/p MVA who
   presents with seizures and question of Benadryl/TCA ingestion, now
   intubated for airway protection.
   # Seizure: Exact cause unclear. Differential includes toxic-metabolic
   or trauma p MVA. LP underwhelming for infectious process Head MRI
   preliminarily without structural abdnormalities. Prelim EEG without
   specific pattern.
   - empiric vanc/CTZ
   - Final MRI/EEG read pnd
   - loaded with dilantin, f/u levels.
   - f/u Neuro and NSurg
   # C2 fluid collection on MRI: concerning for abscess, although
   neurosurg suggested this may be hematoma.
   - monitor neuro exam q2 hrs
   - C spine collar
   - NSurg rec re repeat MRI +/- contrast
   #  Respiratory failure: Patient intubated at OSH for airway protection
   given recurrent seizures.  Currently on propafol sedation.
   - Wean sedation, midaz bolus for agitation, RSBI and SBT today,
   consider extubation.
   # Leukocytosis/fever: presented with fever to 102 and leukocytosis
   which initially improved but  overnight spiked to 101 and was
   pancultured. LP negative, Cx NGTD. C2 fluid collection concerning for
   abscess.
   - ABX as above; if continues to spike or if develops new leukocytosis
   or if positive cx would broaden spectrum
   - f/u cx, cdiff
   - if bacteremic would ECHO for endocarditis
   - Trend fever curve, WBC.
   # AGMA: Likely a combination of relative uremia and lactic acidosis.
   Notably, blood sugar was also elevated, but ketones were negative in
   the UA.  AG now narrowed at 12 with normal albumin with lactate
   normalized.
   # ESRD on HD: Unclear of renal baseline and patient has not been on HD
   in over a year. Currently, without volume overload or electrolyte
   abnormalities.  Patient with good UOP. Ample uop.
   - Trend chemistries, creatinine, and UOP.
   # Hepatitis C: Unclear status of liver disease.  Transaminases normal
   with preserved synthetic function.
   - Continue to trend LFTs
   FEN: NPO, replete as necessary. IVF.
   PPx: Heparin SQ, PPI, bowel regimen
   Access: PIV x3, HD line
   Code: Full
   Communication: Son
   Dispo: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2134-6-1**] 01:34 AM
   20 Gauge - [**2134-6-2**] 04:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-06-04 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname **] is a 56 yo male with recent head trauma
   s/p MVA who presents with seizures and question of Benadryl/TCA
   ingestion, now intubated for airway protection.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2134-6-3**] 11:54 AM
   - Successfully extubated
   - d/w neuro-rads fellow, confirmed that fluid collection is most
   consistent with hematoma. Unable to state age of hematoma, but given
   story would be most consistent with hematoma.
   - d/w neurosurg resident. Will come by to do complete neuro exam. Cont
   antibiotics for now.
   - d/w neurology - no change in recs. Will have to readdress with them
   call out situation in AM (neuro versus med)
   Allergies:
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2134-6-2**] 12:22 PM
   Piperacillin/Tazobactam (Zosyn) - [**2134-6-2**] 01:23 PM
   Ceftazidime - [**2134-6-3**] 10:46 PM
   Infusions:
   Other ICU medications:
   Dilantin - [**2134-6-3**] 10:00 AM
   Fentanyl - [**2134-6-3**] 02:45 PM
   Pantoprazole (Protonix) - [**2134-6-3**] 05:00 PM
   Morphine Sulfate - [**2134-6-3**] 05:34 PM
   Heparin Sodium (Prophylaxis) - [**2134-6-3**] 10:47 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-6-4**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.8
C (100
   HR: 78 (69 - 102) bpm
   BP: 136/82(94) {106/67(75) - 183/111(126)} mmHg
   RR: 16 (11 - 27) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
                  Total In:
                                                                    418 mL
                  PO:
                  TF:
   IVF:
                                                                    418 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    430 mL
   Urine:
                                                                  2,270 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,852 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 517 (517 - 517) mL
   PS : 8 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 98%
   ABG: ///21/
   Ve: 8.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   132 K/uL
   11.9 g/dL
   113 mg/dL
   4.0 mg/dL
   21 mEq/L
   3.8 mEq/L
   32 mg/dL
   111 mEq/L
   146 mEq/L
   34.7 %
   10.8 K/uL
        [image002.jpg]
                             [**2134-6-1**]  04:56 AM
                             [**2134-6-2**]  03:20 AM
                             [**2134-6-2**]  08:57 AM
                             [**2134-6-3**]  04:54 AM
                             [**2134-6-4**]  03:03 AM
   WBC
   13.4
   12.3
   9.7
   10.8
   Hct
   30.4
   34.6
   31.0
   34.7
   Plt
   148
   142
   118
   132
   Cr
   3.4
   3.7
   4.2
   4.0
   TropT
   0.05
   TCO2
   24
   Glucose
   117
   141
   105
   113
   Other labs: PT / PTT / INR:12.8/29.2/1.1, CK / CKMB /
   Troponin-T:284/6/0.05, ALT / AST:15/36, Alk Phos / T Bili:56/0.3,
   Lactic Acid:0.8 mmol/L, Albumin:3.5 g/dL, LDH:274 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 56 yo male with recent head trauma s/p MVA who
   presents with seizures and question of Benadryl/TCA ingestion, now
   intubated for airway protection.
   # C2 epidural fluid collection:  Seen on MRI and neurosurgery believes
   it is likely a hematoma, unlikely to be an abscess.  Complaining of
   pain secondary to mass.
   - hold antibiotics
   - monitor neuro exam q4 hrs
   - C spine collar
   - NSurg rec re repeat MRI +/- contrast
   - morphine for pain, diazepam for trapezius spasm
   # Seizure: Exact cause unclear. Differential includes toxic-metabolic
   or trauma p MVA. LP underwhelming for infectious process Head MRI
   without structural abdnormalities. Prelim EEG without specific
   pattern.
   - loaded with dilantin, f/u levels
   - continue keppra
   - f/u Neuro and NSurg
   # Leukocytosis/fever: presented with fever to 102 and leukocytosis
   which initially improved but continues to spike.  Concerning for
   epidural abscess.  LP negative, Cx NGTD.
   - plan to hold antibiotics for now
   - f/u cx data
   - Trend fever curve, WBC.
   # HTN:  Cont labetalol.
   # ESRD on HD: Unclear of renal baseline and patient has not been on HD
   in over a year. Currently, without volume overload or electrolyte
   abnormalities.  Patient with good UOP.
   - Trend chemistries, creatinine, and UOP.
   # Hepatitis C: Unclear status of liver disease.  Transaminases normal
   with preserved synthetic function.
   - Continue to trend LFTs
   ICU Care
   Nutrition: regular
   Glycemic Control:
   Lines:
   16 Gauge - [**2134-6-1**] 01:34 AM
   20 Gauge - [**2134-6-2**] 04:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Physical exam:
   General:  c/o neck pain
   HEENT: NC/AT; pupils +2/symmetric RRL, sclera anicteric
   Neck: Supple, no LAD
   Lungs: CTAB
   CV: S1, S2 nl, no m/r/g appreciated
   Abdomen: Soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neuro: a/o x3, moves all extremities
   Skin: No rash, no jaundice
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4097**], MD
   on:[**2134-6-4**] 21:36 ------